US07112582B2
A mixture of 5-methoxy-1-methyl-3,6-dihydro-1H-pyrazin-2-one (2.3 g) and ammonium chloride (936 mg) in dry ethanol (32 mL) was stirred at room temperature for 1 h and then refluxed for 2 h. The reaction mixture was cooled to room temperature and evaporated under reduced pressure. The residue was triturated with chloroform at room temperature for 30 min. The precipitate was filtered off and dried in vacuo. The 5-amino-1-methyl-3,6-dihydro-1H-pyrazin-2-one hydrochloride was obtained as a pale brown powder (1.7 g, 66%).

reactant | 5-methoxy-1-methyl-3,6-dihydro-1H-pyrazin-2-one | 2.3 g | COC1=NCC(N(C1)C)=O | C6H10N2O2
reactant | ammonium chloride | 936 mg | [Cl-].[NH4+]
solvent | ethanol | 32 mL | C(C)O | C2H6O
product | 5-amino-1-methyl-3,6-dihydro-1H-pyrazin-2-one hydrochloride | Cl.NC1=NCC(N(C1)C)=O | InChI=1S/C5H9N3O.ClH/c1-8-3-4(6)7-2-5(8)9;/h2-3H2,1H3,(H2,6,7);1H
